US08865758B2
0.200 g (1.034 mmol) of 1-methyl-4-oxopiperidine-3-carboxylate hydrochloride (commercially available, ABCR), 0.54 mL (3.102 mmol) of diisopropylethylamine, 0.155 g (1.034 mmol) of sodium iodide and 0.170 g (1.034 mmol) of 3-(chloromethyl)pyridine hydrochloride were stirred at 80° C. in 5.0 mL of anhydrous CH3CN. The reaction was monitored by HPLC and UPLC-MS. After 1 h at 80° C., the insoluble inorganic materials were filtered off and the filtrate was concentrated in vacuo to give a yellowish residue. This residue was dissolved in CH2Cl2, washed with brine, H2O, dried over Na2SO4 and concentrated in vacuo to give pure methyl 4-oxo-1-(pyridin-3-ylmethyl)piperidine-3-carboxylate (0.257 g, 1.034 mmol, quantitative yield). The product was used for the next step without further manipulation.

reactant | 1-methyl-4-oxopiperidine-3-carboxylate hydrochloride | 1.034 mmol, 0.200 g | Cl.CN1CC(C(CC1)=O)C(=O)O
reactant | diisopropylethylamine | 3.102 mmol, 0.54 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium iodide | 1.034 mmol, 0.155 g | [I-].[Na+]
reactant | 3-(chloromethyl)pyridine hydrochloride | 1.034 mmol, 0.170 g | Cl.ClCC=1C=NC=CC1
solvent | CH3CN | 5.0 mL | CC#N | C2H3N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | methyl 4-oxo-1-(pyridin-3-ylmethyl)piperidine-3-carboxylate | 1.034 mmol, 0.257 g, quantitative yield | O=C1C(CN(CC1)CC=1C=NC=CC1)C(=O)OC | C13H16N2O3
